US05726162
a. 4-chloro-3-nitrobenzoylpropionic acid
To fuming nitric acid (150 ml) was added p-chlorobenzoylpropionic acid (20.0 g), slowly portionwise at 0° C. After the addition was completed the resulting mixture was stirred at 0° C. for 30 minutes and the resulting white solid was suction filtered and washed with water until the pH of the washing liquids was neutral, then dried to yield 3-(4-chloro-3-nitrobenzoyl)propionic add as a white solid (13.0 g).

reactant | p-chlorobenzoylpropionic acid | 20.0 g | ClC1=CC=C(C(=O)C(C(=O)O)C)C=C1 | C10H9ClO3
reactant | nitric acid | 150 ml | [N+](=O)(O)[O-] | HNO3
product | 4-chloro-3-nitrobenzoylpropionic acid | ClC1=C(C=C(C(=O)C(C(=O)O)C)C=C1)[N+](=O)[O-] | C10H8ClNO5
